US04065473
Preparation of 3-(3-Dimethylaminopropyl)-2,3,4,5-tetrahydro-7,8-methylenedioxy-1H-3-benzazepine hydrochloride
The free base was prepared from 1.9 g of 2,3,4,5-tetrahydro7,8-methylenedioxy-1H-3-benzazepine (0.01 moles), 0.49 g of sodium hydride (0.011 moles), and 2.42 g of 3-dimethylaminopropyl chloride in 15 ml of dimethylformamide in the same manner as described for 3-allyl-2,3,4,5-tetrahydro-7,8-methylenedioxy-1H-3-benzazepine hydrochloride. After treating the reaction mixture with water and extracting with ether (6 × 25 ml) a yellow oil was obtained. This oil was converted to the hydrochloride and the salt recrystallized from EtOH-EtOAc twice to yield the abovenamed product as a white solid, m.p. 273°-275° (dec).

reactant | 2,3,4,5-tetrahydro7,8-methylenedioxy-1H-3-benzazepine | 0.01 moles, 1.9 g | C1OC2=CC3=C(CCNCC3)C=C2O1 | C11H13NO2
reactant | sodium hydride | 0.011 moles, 0.49 g | [H-].[Na+]
reactant | 3-dimethylaminopropyl chloride | 2.42 g | CN(CCCCl)C | C5H12ClN
reactant | 3-allyl-2,3,4,5-tetrahydro-7,8-methylenedioxy-1H-3-benzazepine hydrochloride | Cl.C(C=C)N1CCC2=C(CC1)C=C1C(=C2)OCO1
reactant | hydrochloride | Cl | ClH
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-(3-Dimethylaminopropyl)-2,3,4,5-tetrahydro-7,8-methylenedioxy-1H-3-benzazepine hydrochloride | Cl.CN(CCCN1CCC2=C(CC1)C=C1C(=C2)OCO1)C | InChI=1S/C16H24N2O2.ClH/c1-17(2)6-3-7-18-8-4-13-10-15-16(20-12-19-15)11-14(13)5-9-18;/h10-11H,3-9,12H2,1-2H3;1H
